US05792769
a) 3-Benzyloxyphenyl acetate
Resorcinol monoacetate (6.10 g, 40 mmol) in DMF (10 mL) was added dropwise to a mixture of NaH (95%, 0.92 g, 40 mmol) in DMF (50 mL). The reaction mixture was stirred at room temperature for 10 min. Benzyl bromide (6.85 g, 40 mmol) in DMF (10 mL) was added dropwise and stirring was continued at room temperature for 2 h. The reaction was quenched carefully with water (100 mL) and then extracted with ethyl acetate (3×100 mL). The organic phase was washed with brine (2×50 mL), dried over Na2 SO4, and concentrated in vacuo. The residue was then purified by flash column chromatography (1:1 hexane:methylene chloride) to give the title compound as a white solid (5.30 g, 55%). 1H-NMR (300 MHz, CDCl3) δ 2.28 (s, 3H), 5.03 (s, 2H), 6.72 (m, 2H), 6.85 (dd, 1H), 7.27 (t, 1H), 7.41 (m, 5H).

reactant | Resorcinol monoacetate | 40 mmol, 6.10 g | C(C)(=O)OC1=CC(O)=CC=C1 | C8H8O3
reactant | NaH | 40 mmol, 0.92 g | [H-].[Na+]
reactant | Benzyl bromide | 40 mmol, 6.85 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-Benzyloxyphenyl acetate | 5.30 g, 55% | C(C)(=O)OC1=CC(=CC=C1)OCC1=CC=CC=C1 | C15H14O3
